US07067517B2
Methyl-phenyl-carbamic acid 5-(3,3-dimethyl-2,5-dioxo-pyrrolidin-1-yl)-pyridin-2-yl ester
A mixture of thionyl chloride (0.726 mL, 10.00 mmol) and 2,2-dimethyl-N-[6-(methyl-phenyl-carbamoyloxy)-pyridin-3-yl]-succinamic acid (0.74 g, 2.00 mmol) in dichloromethane (25 mL) was stirred at room temperature for 18 hours. The solvent and excess thionyl chloride were evaporated in vacuo. The crude product was redissolved in dichloromethane (25 mL) and pyridine (316 mg, 4.00 mmol) was added. The solution was extracted with water, dried over sodium sulphate, filtered and evaporated in vacuo. The residue was purified by flash column chromatography (SiO2, ethyl acetate:heptane 50:50), yielding the title compound (490 mg, 69% yield) as a white solid.

reactant | thionyl chloride | 10.00 mmol, 0.726 mL | S(=O)(Cl)Cl | Cl2OS
reactant | 2,2-dimethyl-N-[6-(methyl-phenyl-carbamoyloxy)-pyridin-3-yl]-succinamic acid | 2.00 mmol, 0.74 g | CC(C(=O)O)(CC(=O)NC=1C=NC(=CC1)OC(N(C1=CC=CC=C1)C)=O)C | C19H21N3O5
reactant | pyridine | 4.00 mmol, 316 mg | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
product | Methyl-phenyl-carbamic acid 5-(3,3-dimethyl-2,5-dioxo-pyrrolidin-1-yl)-pyridin-2-yl ester | 490 mg, 69% yield | CC1(C(N(C(C1)=O)C=1C=CC(=NC1)OC(N(C1=CC=CC=C1)C)=O)=O)C | C19H19N3O4
